US09085563B2
2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione N-tert-butoxycarbonyl-(S)-2-pyrrolidinecarboxylate
(S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid (374 mg) and 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindoline-1,3-dione (500 mg) were dissolved in DCM (30 mL). The mixture was stirred on a magnetic stirrer at room temperature. DCC (350 mg) and DMAP (25 mg) were added in one portion and the mixture was allowed to react overnight. The mixture was then filtered to remove dicyclohexylurea. The filter cake was washed several times with DCM, and the filtrates were combined. The filtrates were dried over anhydrous magnesium sulfate and filtered. The solvent was removed by rotary evaporation in vacuo. White solid (658 mg) was obtained after the crude product was purified by silica gel column chromatography (eluted with chloroform: acetone=9:2).

reactant | (S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 374 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindoline-1,3-dione | 500 mg | OCCN1C(C(CCC1=O)N1C(C2=CC=CC=C2C1=O)=O)=O | C15H14N2O5
reactant | DCC | 350 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione N-tert-butoxycarbonyl-(S)-2-pyrrolidinecarboxylate | 658 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O.OCCN1C(C(CCC1=O)N1C(C2=CC=CC=C2C1=O)=O)=O | InChI=1S/C15H14N2O5.C10H17NO4/c18-8-7-16-12(19)6-5-11(15(16)22)17-13(20)9-3-1-2-4-10(9)14(17)21;1-10(2,3)15-9(14)11-6-4-5-7(11)8(12)13/h1-4,11,18H,5-8H2;7H,4-6H2,1-3H3,(H,12,13)/t;7-/m.0/s1
